US03950333
The reaction of N-methyl-N'-[3-((4-methyl-5-imidazolyl)methylthio)propyl]thiourea (5.9 g.) with lead cyanamide (17.5 g.) by a procedure similar to that described in Example 3(b) afforded N-cyano-N'-methyl-N"-[3-((4-methyl-5-imidazolyl)methylthio)propyl]guanidine (0.91 g.), m.p. 156°-158°, following chromatography on silica gel with successive elution by chloroformethyl acetate (1:1), ethyl acetate and ethyl acetate isopropyl alcohol (5:1) and final recrystallisation from isopropyl alcohol-ether. (Found: C, 49.5; H, 7.0; S, 12.0. C11H18N6S requires: C, 49.6; H, 6.8; S, 12.0).

reactant | N-methyl-N'-[3-((4-methyl-5-imidazolyl)methylthio)propyl]thiourea | 5.9 g | CNC(=S)NCCCSCC1=C(N=CN1)C | C10H18N4S2
reactant | lead cyanamide | 17.5 g | N#CN.[Pb]
product | N-cyano-N'-methyl-N"-[3-((4-methyl-5-imidazolyl)methylthio)propyl]guanidine | 0.91 g | C(#N)NC(=NCCCSCC1=C(N=CN1)C)NC | C11H18N6S
